spice
* SPICE Netlist for Inverting Amplifier Circuit

V1 1 0 DC Vin    ; Voltage source Vin connected to Net 1
R1 1 3 10k       ; Resistor R1 between Net 1 and Net 3
R2 4 3 10k       ; Resistor R2 between Net 4 and Net 3
XU1 0 3 4 opamp  ; Operational amplifier with non-inverting input at Net 2, inverting input at Net 3, output at Net 4

* Models
.model opamp opamp

.end